US08445501B2
cis-[4-({1-[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-cyclohexyl]-carbamic acid ethyl ester
Starting from cis-4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide (example A141) and ethyl chloroformate the title compound is obtained as colorless solid.

reactant | cis-4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (4-amino-cyclohexyl)-amide | N[C@H]1CC[C@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C24H27N5O4
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | cis-[4-({1-[4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidin-7-yl]-methanoyl}-amino)-cyclohexyl]-carbamic acid ethyl ester | C(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1)=O | C27H31N5O6
